US08309580B2
(2) 4-{[(5-butanoyl-2-ethylthiophen-3-yl)(cyclohexyl)methyl]amino}benzoic acid
To a mixture of methyl 4-{[(5-butanoyl-2-ethylthiophen-3-yl)(cyclohexyl)methyl]amino}benzoate (316 mg) synthesized above, tetrahydrofuran (5 mL) and ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (5 and the mixture was stirred with heating under reflux for 3 hr, and concentrated under reduced pressure. The residue was dissolved in water (10 mL), and 1N hydrochloric acid (5 mL) was added at 0° C. The resulting precipitate was collected by filtration to give the title compound (290 mg, 95%) as a white solid.

reactant | methyl 4-{[(5-butanoyl-2-ethylthiophen-3-yl)(cyclohexyl)methyl]amino}benzoate | 316 mg | C(CCC)(=O)C1=CC(=C(S1)CC)C(C1CCCCC1)NC1=CC=C(C(=O)OC)C=C1 | C25H33NO3S
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-{[(5-butanoyl-2-ethylthiophen-3-yl)(cyclohexyl)methyl]amino}benzoic acid | 290 mg, 95% | C(CCC)(=O)C1=CC(=C(S1)CC)C(C1CCCCC1)NC1=CC=C(C(=O)O)C=C1 | C24H31NO3S
